US06589984B1
Pyridine (400 μl) and Ac2O (15 μl) were added to 6-(5-aminobenzofuran-2-yl)-3,5-dimethyl-4-methoxymethoxy-2H-pyran-2-one (45 mg), and after stirring the mixture at room temperature for 6 hours, an NH4Cl aqueous solution was added and extraction was performed with CH2Cl2. The organic layer was dried, filtered and concentrated, and the residue was purified by silica gel thin-layer chromatography (CH2Cl2) to obtain 6-(5-acetylamino)benzofuran-2-yl)-3,5-dimethyl-4-methoxymethoxy-2H-pyran-2-one.

reactant | Ac2O | 15 μl | CC(=O)OC(=O)C | C4H6O3
reactant | 6-(5-aminobenzofuran-2-yl)-3,5-dimethyl-4-methoxymethoxy-2H-pyran-2-one | 45 mg | NC=1C=CC2=C(C=C(O2)C2=C(C(=C(C(O2)=O)C)OCOC)C)C1 | C17H17NO5
reactant | NH4Cl | [NH4+].[Cl-]
solvent | Pyridine | 400 μl | N1=CC=CC=C1 | C5H5N
product | 3,5-dimethyl-4-methoxymethoxy-2H-pyran-2-one | CC=1C(OC=C(C1OCOC)C)=O | C9H12O4
